US08426448B2
Preparation 85: 1-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamine hydrochloride
Prepare a solution of 1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamine (25.5 g, 124.88 mmol) in Et2O (100 mL) and add 1M hydrogen chloride solution in Et2O (137.37 mL, 137.37 mmol) at room temperature. Filter the precipitate and dry under vacuum to afford the title compound (30 g, 99%) as a tan solid. 1H NMR (DMSO-d6) δ 8.80 (br s, 3H); 8.20 (t, J=8.0 Hz, 1H); 8.05 (d, J=8.0 Hz, 1H); 7.93 (d, J=8.0 Hz, 1H); 1.67 (s, 6H). 19F NMR (DMSO-d6)-66.27.

reactant | 1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamine | 124.88 mmol, 25.5 g | CC(C)(C1=NC(=CC=C1)C(F)(F)F)N | C9H11F3N2
reactant | hydrogen chloride | 1M | Cl | ClH
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 137.37 mmol, 137.37 mL | CCOCC | C4H10O
product | 1-Methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamine hydrochloride | 30 g, 99% | Cl.CC(C)(C1=NC(=CC=C1)C(F)(F)F)N | InChI=1S/C9H11F3N2.ClH/c1-8(2,13)6-4-3-5-7(14-6)9(10,11)12;/h3-5H,13H2,1-2H3;1H
